US07163940B2
A mixture of N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (56 mg, 0.14 mmol) and 2-methoxyethylamine (5 mL) was heated to reflux for 24 hours, then cooled and concentrated. Flash column chromatography eluting with 3:1 hexanes:ethyl acetate afforded 3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-(2-methoxyethyl)pyrazolo[1,5-α]pyridin-7-amine (57.1 mg, 93%) as a yellow foam. 1H NMR (CDCl3): δ 8.02 (d, 1H), 7.76 (d, 1H), 7.65 (m, 2H), 7.32 (t, 1H), 7.15 (t, 2H), 6.29 (m, 2H), 6.05 (d, 1H), 5.10 (broad, 1H), 3.72 (t, 2H), 3.57 (q, 2H), 3.47 (q, 2H), 3.43 (s, 3H), 1.69–1.44 (m, 4H), 0.98 (t, 3H); MS m/z 435 (M+1).

reactant | N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 0.14 mmol, 56 mg | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C21H19ClFN5
reactant | 2-methoxyethylamine | 5 mL | COCCN | C3H9NO
product | 3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-(2-methoxyethyl)pyrazolo[1,5-α]pyridin-7-amine | 57.1 mg, 93% | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCOC)C2=CC=C(C=C2)F | C24H27FN6O
